US05945382
14.6 g (0.05 mol) of 3-(2-nitro-3,5-dichlorophenyl)-4-chloropyrazole, in solution in 200 ml of acetic acid, are introduced into a 500 ml, three-necked, round-bottomed flask. The solution is brought to 50° C. and 8.4 g (0.15 mol) of iron powder are introduced in portions. The reaction mixture is then kept stirring at 70° C. for 5 hours. After cooling, the reaction mixture is poured into 800 ml of water, filtered on sintered glass, rinsed with water and dried to lead to the production of a white solid (yield: 90%, M.p.: decomposition at 300° C.) of 3-(2-amino-3,5-dichlorophenyl)-4-chloropyrazole.

reactant | 3-(2-nitro-3,5-dichlorophenyl)-4-chloropyrazole | 0.05 mol, 14.6 g | [N+](=O)([O-])C1=C(C=C(C=C1Cl)Cl)C1=NNC=C1Cl | C9H4Cl3N3O2
reactant | water | 800 ml | O | H2O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 0.15 mol, 8.4 g | [Fe] | Fe
product | 3-(2-amino-3,5-dichlorophenyl)-4-chloropyrazole | yield: 90% | NC1=C(C=C(C=C1Cl)Cl)C1=NNC=C1Cl | C9H6Cl3N3
